US08349886B2
1-methyl-5-(methylsulfanyl)-1H-pyrazole-carbaldehyde
To a mixture of 5-(methylsulfanyl)-1H-pyrazole-3-carbaldehyde (10.0 g), potassium carbonate (9.70 g) and N,N′-dimethylformamide (60 mL) was slowly added methyl iodide (6.6 mL) at 0° C., and the mixture was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (6.38 g, yield 58%) as yellow crystals from the fraction eluted with ethyl acetate-hexane (1:5, volume ratio). melting point 47-48° C. MS: 157 (MH+).

reactant | 5-(methylsulfanyl)-1H-pyrazole-3-carbaldehyde | 10.0 g | CSC1=CC(=NN1)C=O | C5H6N2OS
reactant | potassium carbonate | 9.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylformamide | 60 mL | CN(C)C=O | C3H7NO
reactant | methyl iodide | 6.6 mL | CI | CH3I
solvent | water | O | H2O
product | 1-methyl-5-(methylsulfanyl)-1H-pyrazole-carbaldehyde | 6.38 g, yield 58% | CN1N=C(C=C1SC)C=O | C6H8N2OS
